US05925624
(1S-trans)-(3-Hydroxycyclopentyl)carbamic acid 1,1-dimethylethyl ester
A solution of (1S-trans)-[3-(formyloxy)cyclopentyl]carbamic acid 1,1-dimethylethyl ester (0.081 g, 0.35 mmol) in methanol (3 ml) was treated with a slurry of potassium hydrogen carbonate (0.707 g, 7.06 mmol) in water (1.5 ml) and stirred at room temperature for 2h. The mixture was then diluted with water (20 ml) and ethyl acetate (20 ml) and the aqueous phase was extracted with ethyl acetate (2×20 ml). The combined organic phase was dried (MgSO4) and evaporated to leave a solid which was purified by column chromatography on flash silica eluting with 30-40% ethyl acetate in cyclohexane to give the title compound (0.037 g) from diisopropyl ether m.p. 83-85° C., [α]D 0.0° (CHCl3 c=0.55%).

reactant | (1S-trans)-[3-(formyloxy)cyclopentyl]carbamic acid 1,1-dimethylethyl ester | 0.35 mmol, 0.081 g | CC(C)(C)OC(N[C@@H]1C[C@H](CC1)OC=O)=O | C11H19NO4
reactant | potassium hydrogen carbonate | 7.06 mmol, 0.707 g | C(O)([O-])=O.[K+]
solvent | methanol | 3 ml | CO | CH4O
solvent | water | 1.5 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (1S-trans)-(3-Hydroxycyclopentyl)carbamic acid 1,1-dimethylethyl ester | 0.037 g | CC(C)(C)OC(N[C@@H]1C[C@H](CC1)O)=O | C10H19NO3
